US04215003
Equimolar portions (0.105 moles) of benzensulfonyl chloride, 3-hydroxy pyridine, (3-pyridinol) and sodium hydroxide were combined in 150 ml of water, heated to ca 50° C. for 1.5 hours, and allowed to stir at ambient temperature for 3 days. The product was extracted with methylene chloride, dried over sodium sulfate, and evaporated to yield an oil that was purified by distillation, bp 135° C. (0.02 torr) to yield 46% of the theoretical weight of 3-pyridinyl benzensulfonate.

reactant | benzensulfonyl chloride | 0.105 moles | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 3-hydroxy pyridine | OC=1C=NC=CC1 | C5H5NO
reactant | 3-pyridinol | N1=CC(=CC=C1)O | C5H5NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | 3-pyridinyl benzensulfonate | 46% | C1(=CC=CC=C1)S(=O)(=O)OC=1C=NC=CC1 | C11H9NO3S
